US07741322B2
(±)-3-(1-Benzoylpiperidin-3-yl)-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one
To a dichloromethane (0.100 mL) solution of (±)-6-methoxy-2-methyl-4-phenyl-3-piperidin-3-ylisoquinolin-1(2H)-one (30 mg, 0.086 mmol) and N,N-diisopropylethylamine (0.017 mL, 0.095 mmol) was added benzoyl chloride (0.011 mL, 0.095 mmol). After 24 hours saturated sodium bicarbonate and additional dichloromethane were added. The layers were separated and the organic phase dried with anhydrous magnesium sulfate. Evaporation of the solvent in vacuo followed by trituration with ether-EtOAc gave a white solid which was isolated by vacuum filtration to give the titled product. ESI+MS: 453.3 [M+H]+.

reactant | (±)-6-methoxy-2-methyl-4-phenyl-3-piperidin-3-ylisoquinolin-1(2H)-one | 0.086 mmol, 30 mg | COC=1C=C2C(=C(N(C(C2=CC1)=O)C)C1CNCCC1)C1=CC=CC=C1 | C22H24N2O2
reactant | N,N-diisopropylethylamine | 0.095 mmol, 0.017 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzoyl chloride | 0.095 mmol, 0.011 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.100 mL | ClCCl | CH2Cl2
product | (±)-3-(1-Benzoylpiperidin-3-yl)-6-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)C | C29H28N2O3
